* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\LineaTransmision.asc
L1 N004 N005 1n
TL1 N003 N004 45 45 1E9
L2 N001 N003 1n
TL2 N005 N002 60 45 1E9
TL3 N004 N005 60 45 1E9
.backanno
.end
